US04152136
1-acetoxy-3,5-diphenyl-4(1H)-pyridone
A 2.4 g. portion of 3,5-diphenyl-1-hydroxy-4(1H)-pyridone was made by the process of Example 23, using hydroxylamine as the aminating agent. The pyridone was added to 25 ml. of acetic anhydride and the mixture was heated on the steam bath for about 1 hour. The volatiles were then evaporated under vacuum, and the residue was washed with benzene and then recrystallized, first from benzene and then from chloroform-hexane. The yield was 2.1 g. of 1-acetoxy-3,5-diphenyl-4(1H)-pyridone, m.p. 197°-199° C.

reactant | 3,5-diphenyl-1-hydroxy-4(1H)-pyridone | C1(=CC=CC=C1)C1=CN(C=C(C1=O)C1=CC=CC=C1)O | C17H13NO2
reactant | hydroxylamine | NO | H3NO
reactant | pyridone | N1C(C=CC=C1)=O | C5H5NO
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-acetoxy-3,5-diphenyl-4(1H)-pyridone | C(C)(=O)ON1C=C(C(C(=C1)C1=CC=CC=C1)=O)C1=CC=CC=C1 | C19H15NO3
